US07982071B2
Addition of acetonitrile to 3-(2,6-Dichlorobenzyloxy)benzaldehyde gave 3-[3-(2,6-dichlorobenzyloxy)phenyl]-3-hydroxypropionitrile as a yellow oil. Yield (1.65 g, 68%): 1H NMR (400 MHz, CDCl3) δ 7.34-7.39 (m, 3H), 7.24-7.28 (m, 1H), 7.07 (s, 1H), 7.00-7.05 (m, 2H), 5.29 (s, 2H), 5.04 (t, J=6.4 Hz, 1H), 2.78 (d, J=6.4 Hz, 2H).

reactant | 3-(2,6-Dichlorobenzyloxy)benzaldehyde | ClC1=C(COC=2C=C(C=O)C=CC2)C(=CC=C1)Cl | C14H10Cl2O2
reactant | acetonitrile | C(C)#N | C2H3N
product | 3-[3-(2,6-dichlorobenzyloxy)phenyl]-3-hydroxypropionitrile | ClC1=C(COC=2C=C(C=CC2)C(CC#N)O)C(=CC=C1)Cl | C16H13Cl2NO2
